US08729102B2
A) (2,2-difluorocyclopropyl)methyl methanesulfonate
Methanesulfonyl chloride (1.43 mL) was added to a solution of (2,2-difluorocyclopropyl)methanol (1.00 g) and triethylamine (2.58 mL) in THF (10 mL) dropwise at 0° C. The mixture was stirred at room temperature overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (1.47 g) as a colorless oil.

reactant | Methanesulfonyl chloride | 1.43 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2,2-difluorocyclopropyl)methanol | 1.00 g | FC1(C(C1)CO)F | C4H6F2O
reactant | triethylamine | 2.58 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2,2-difluorocyclopropyl)methyl methanesulfonate | 1.47 g | CS(=O)(=O)OCC1C(C1)(F)F | C5H8F2O3S
